US07851626B2
rac-(4S*,5R*)-4,5-Bis-(4-chlorophenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)phenyl]-4,5-dimethyl-4,5-dihydroimidazole-1-carbonyl chloride
In a manner analogous to the method described in example 3, rac-(4S*,5R*)-4,5-bis-(4-chlorophenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)phenyl]-4,5-dimethyl-4,5-dihydro-1H-imidazole was reacted with phosgene in the presence of triethylamine to give the title compound.

reactant | rac-(4S*,5R*)-4,5-bis-(4-chlorophenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)phenyl]-4,5-dimethyl-4,5-dihydro-1H-imidazole | ClC1=CC=C(C=C1)C1(N=C(NC1(C)C1=CC=C(C=C1)Cl)C1=C(C=CC(=C1)S(=O)(=O)N1CCCC1)OCC)C | C29H31Cl2N3O3S
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | rac-(4S*,5R*)-4,5-Bis-(4-chlorophenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)phenyl]-4,5-dimethyl-4,5-dihydroimidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=CC(=C1)S(=O)(=O)N1CCCC1)OCC)C | C30H30Cl3N3O4S
